US08383820B2
3-(5-Chloro-pyridin-2-yloxy)-benzoic acid
Prepared from 2,5-dichloropyridine and ethyl 3-hydroxybenzoate. 1H NMR (400 MHz, DMSO-d6) δ 13.17 (br. s., 1 H), 8.22 (d, 1 H), 8.00 (dd, 1 H), 7.81 (dd, 1 H), 7.60-7.64 (m, 1 H), 7.58 (t, 1 H), 7.43 (dd, 1 H), 7.18 (d, 1 H).

reactant | 2,5-dichloropyridine | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | ethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
product | 3-(5-Chloro-pyridin-2-yloxy)-benzoic acid | ClC=1C=CC(=NC1)OC=1C=C(C(=O)O)C=CC1 | C12H8ClNO3
